US06964966B2
6 N HCl (200 ml) was added to a stirred solution of 4-benzyloxycarbonylamino-1-t-butyloxycarbonyl-3,3-dimethylpiperidine (350 g, 0.96 mol) in dioxane (200 ml). The resulting mixture was stirred for 1 hr and concentrated to dryness. The resultant residue was treated with water (3.0 L) water and was extracted with 1.0 L×2 ethyl acetate. The aqueous layer was basified with 2 M aqueous NaOH and extracted with 2.5 L×2 dichloromethane. Combined organic extract was washed with water, dried over Na2SO4 and concentrated to afford 4-benzyloxycarbonylamino-3,3-dimethylpiperidine in 89% (224 g) yield.

reactant | HCl | 6 N, 200 ml | Cl | ClH
reactant | 4-benzyloxycarbonylamino-1-t-butyloxycarbonyl-3,3-dimethylpiperidine | 0.96 mol, 350 g | C(C1=CC=CC=C1)OC(=O)NC1C(CN(CC1)C(=O)OC(C)(C)C)(C)C | C20H30N2O4
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 4-benzyloxycarbonylamino-3,3-dimethylpiperidine | C(C1=CC=CC=C1)OC(=O)NC1C(CNCC1)(C)C | C15H22N2O2
